US05157041
A solution of 30 mg of N2 -[3(S)-[[N,3-bis(benzyloxycarbonyl)-L-histidyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide in 6 ml of 2M hydrochloric acid was stirred at room temperature overnight. The mixture was neutralized by the addition of 2M sodium hydroxide solution and extracted with two 10 ml portions of dichloromethane. The combined extracts were dried over anhydrous sodium sulphate and evaporated. The crude product was triturated with diethyl ether to give 14 mg of N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-histidyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a white solid of melting point 100° C. (decomposition); MS: m/e 604 [M]+.

reactant | N2 [3(S)-[[N,3-bis(benzyloxycarbonyl)-L-histidyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 30 mg | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CN=CN1C(=O)OCC1=CC=CC=C1)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | hydrochloric acid | 2M, 6 ml | Cl | ClH
product | N2 [3(S)-[[N-(benzyloxycarbonyl)-L-histidyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 14 mg | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C33H44N6O5.N2/c1-32(2,3)39-16-10-15-33(39,30(34)42)19-28(40)26(17-23-11-6-4-7-12-23)37-29(41)27(18-25-20-35-22-36-25)38-31(43)44-21-24-13-8-5-9-14-24;1-2/h4-9,11-14,20,22,26-28,40H,10,15-19,21H2,1-3H3,(H2,34,42)(H,35,36)(H,37,41)(H,38,43);/t26-,27-,28+,33+;/m0./s1
